* EEG AFE SoC analog top: chopped PGA (eeg_afe_pga) + CT 1st-order SDM
* (eeg_sdm1ct). Single channel; 8ch MUX handled at pad/test level.
* References VP/VN and VCM_REF are external pins (tapeout v1: testability and
* calibration flexibility; a tracking replica reference is a v2 item).
* Clocks: PHI* = 1 kHz chopper (4 phases, from eeg_clkgen), CLK16/NCLK16 = 16 kHz SDM clock.
.subckt eeg_afe_top ELP ELN VCM_REF VP VN PHII NPHII PHIBI NPHIBI PHIM NPHIM PHIBM NPHIBM CLK16 NCLK16 BIT NBIT S8 S16 S32 S64 VDD18 VSS
* front-end chopped PGA
XAFE ELP ELN VCM_REF PGA_OUTP PGA_OUTN PHII NPHII PHIBI NPHIBI PHIM NPHIM PHIBM NPHIBM S8 S16 S32 S64 VSS VDD18 VSS eeg_afe_pga
* ADC (CT 1st-order SDM), directly coupled from the PGA output
XADC PGA_OUTP PGA_OUTN VCM_REF VP VN BIT NBIT ADC_OUTP ADC_OUTN CLK16 NCLK16 VDD18 VSS eeg_sdm1ct
.ends
